US07482445B2
Oxalyl chloride (375 g) was added to a suspension prepared by adding 3.0 L of dry methylene chloride to 371.7 g of N,N-dimethylaminobenzoic acid. A vessel containing the resultant solution was dipped in an oil bath, and the solution was stirred for 3 hr while controlling the internal temperature at about 40° C. The solvent was removed by evaporation under the reduced pressure, and the residue was vacuum dried to give a crude product of N,N-dimethylaminobenzoic acid chloride.

reactant | Oxalyl chloride | 375 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylaminobenzoic acid | 371.7 g | CN(C)C1=C(C(=O)O)C=CC=C1 | C9H11NO2
solvent | methylene chloride | 3.0 L | C(Cl)Cl | CH2Cl2
product | N,N-dimethylaminobenzoic acid chloride | CN(C)C1=C(C(=O)Cl)C=CC=C1 | C9H10ClNO
